data/cycloadd/train.csv
Unnamed: 0,rxn_id,AAM,solvent,temp,G_act,G_r
1567,1733,[CH3:13][O:14][C:15](=[O:16])[C:17]#[N+:18][C-:19]([C:20]#[N:21])[c:22]1[cH:23][cH:24][cH:25][cH:26][cH:27]1.[CH3:1][O:2][C:3](=[O:4])[C:5]1=[C:6]([Cl:7])[CH:8]2[CH:9]=[CH:10][CH:11]1[O:12]2>>[CH3:1][O:2][C:3](=[O:4])[C:5]12[C:6]([Cl:7])([CH:8]3[CH:9]=[CH:10][CH:11]1[O:12]3)[C:17]([C:15]([O:14][CH3:13])=[O:16])=[N:18][C:19]2([C:20]#[N:21])[c:22]1[cH:23][cH:24][cH:25][cH:26][cH:27]1,water,298.15,7.234200486132824,-44.99917259588395
2876,3195,[CH3:1][NH:2][C:3](=[O:4])[C:5]1([C:6](=[O:7])[NH:8][CH3:9])[C:10]#[C:11][C:12]([C:13](=[O:14])[NH:15][CH3:16])([C:17]([F:18])([F:19])[F:20])[CH2:21][CH2:22][CH2:23][CH2:24]1.[CH3:25][O:26][C:27](=[O:28])[C:29]([C:30]([CH3:31])=[O:32])=[N+:33]([CH3:34])[C-:35]([C:36]([CH3:37])=[O:38])[c:39]1[cH:40][cH:41][cH:42][cH:43][cH:44]1>>[CH3:1][NH:2][C:3](=[O:4])[C:5]1([C:6](=[O:7])[NH:8][CH3:9])[C:10]2=[C:11]([C:12]([C:13](=[O:14])[NH:15][CH3:16])([C:17]([F:18])([F:19])[F:20])[CH2:21][CH2:22][CH2:23][CH2:24]1)[C:29]([C:27]([O:26][CH3:25])=[O:28])([C:30]([CH3:31])=[O:32])[N:33]([CH3:34])[C:35]2([C:36]([CH3:37])=[O:38])[c:39]1[cH:40][cH:41][cH:42][cH:43][cH:44]1,water,298.15,53.92600463836955,-1.1043995138259124
1624,1795,[CH3:14][O:15][C:16](=[O:17])[C:18](=[O+:19][C-:20]([C:21]#[N:22])[C:23]([CH3:24])=[O:25])[C:26]([CH3:27])=[O:28].[N:1]#[C:2][C:3]1([C:4]#[N:5])[C:6]#[C:7][CH:8]([F:9])[CH2:10][CH2:11][CH2:12][CH2:13]1>>[N:1]#[C:2][C:3]1([C:4]#[N:5])[C:6]2=[C:7]([CH:8]([F:9])[CH2:10][CH2:11][CH2:12][CH2:13]1)[C:20]([C:21]#[N:22])([C:23]([CH3:24])=[O:25])[O:19][C:18]2([C:16]([O:15][CH3:14])=[O:17])[C:26]([CH3:27])=[O:28],water,298.15,8.365209008824753,-71.05738288686315
2518,2797,[CH3:17][NH:18][C:19](=[O:20])[C:21]([CH3:22])=[NH+:23][C-:24]([C:25](=[O:26])[NH:27][CH3:28])[C:29](=[O:30])[O:31][CH3:32].[Cl:1][C:2]1([Cl:3])[C:4]#[C:5][CH:6]([c:7]2[cH:8][cH:9][cH:10][cH:11][cH:12]2)[CH2:13][CH2:14][CH2:15][CH2:16]1>>[Cl:1][C:2]1([Cl:3])[C:4]2=[C:5]([CH:6]([c:7]3[cH:8][cH:9][cH:10][cH:11][cH:12]3)[CH2:13][CH2:14][CH2:15][CH2:16]1)[C:24]([C:25](=[O:26])[NH:27][CH3:28])([C:29](=[O:30])[O:31][CH3:32])[NH:23][C:21]2([C:19]([NH:18][CH3:17])=[O:20])[CH3:22],water,298.15,13.512083407064418,-45.37367530971702
4061,4652,[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10].[CH3:11][NH:12][C:13](=[O:14])[CH-:15][NH+:16]=[CH:17][C:18](=[O:19])[O:20][CH3:21]>>[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[C@H:6]2[C@:7]1([C:8]([NH2:9])=[O:10])[CH:17]([C:18](=[O:19])[O:20][CH3:21])[NH:16][CH:15]2[C:13]([NH:12][CH3:11])=[O:14],water,298.15,20.097538438574222,-10.029530438921704
3631,4150,[CH3:10][NH:11][C:12](=[O:13])[C-:14]([N+:15]#[N:16])[C:17]([CH3:18])=[O:19].[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]1([CH3:3])[CH:4](/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9])[C:14]([C:12]([NH:11][CH3:10])=[O:13])([C:17]([CH3:18])=[O:19])[N:15]=[N:16]1,water,298.15,32.982633678561754,4.161148195577647
4398,5026,[C:10](#[N+:11][CH-:12][c:13]1[cH:14][cH:15][cH:16][cH:17][cH:18]1)[c:19]1[cH:20][cH:21][cH:22][cH:23][cH:24]1.[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]([CH3:3])=[CH:4][C@H:5]1[C@H:6]([C:7]([CH3:8])=[CH2:9])[CH:12]([c:13]2[cH:14][cH:15][cH:16][cH:17][cH:18]2)[N:11]=[C:10]1[c:19]1[cH:20][cH:21][cH:22][cH:23][cH:24]1,water,298.15,15.344833453587167,-34.98223419356021
2183,2421,[CH3:13][NH:14][C:15](=[O:16])[C-:17]([NH+:18]=[CH:19][C:20]([CH3:21])=[O:22])[c:23]1[cH:24][cH:25][cH:26][cH:27][cH:28]1.[CH3:1][NH:2][C:3](=[O:4])[C:5]1=[C:6]([Br:7])[CH:8]2[CH:9]=[CH:10][CH:11]1[O:12]2>>[CH3:1][NH:2][C:3](=[O:4])[C:5]1=[C:6]([Br:7])[CH:8]2[CH:9]3[CH:10]([CH:11]1[O:12]2)[C:17]([C:15]([NH:14][CH3:13])=[O:16])([c:23]1[cH:24][cH:25][cH:26][cH:27][cH:28]1)[NH:18][CH:19]3[C:20]([CH3:21])=[O:22],water,298.15,18.29710420007988,-38.07029386888159
4896,5580,[C:1]1(=[O:2])[C:3]([O:4][CH3:5])=[C:6]([O:7][CH3:8])[C:9](=[O:10])[C:11]([CH3:12])=[C:13]1[CH3:14].[CH3:15][NH:16][C:17](=[O:18])[CH:19]=[NH+:20][C-:21]([C:22]#[N:23])[C:24]([CH3:25])=[O:26]>>[C:1]1(=[O:2])[C@:3]2([O:4][CH3:5])[C@:6]([O:7][CH3:8])([C:9](=[O:10])[C:11]([CH3:12])=[C:13]1[CH3:14])[C:21]([C:22]#[N:23])([C:24]([CH3:25])=[O:26])[NH:20][CH:19]2[C:17]([NH:16][CH3:15])=[O:18],water,298.15,29.172511593585547,-4.218243666917648
1698,1878,[Br:1][C:2]1=[CH:3][CH:4]2[CH2:5][CH2:6][CH:7]1[CH2:8]2.[CH3:9][C:10](=[O:11])[C:12](=[NH+:13][C-:14]([C:15]#[N:16])[c:17]1[cH:18][cH:19][cH:20][cH:21][cH:22]1)[C:23]([CH3:24])=[O:25]>>[Br:1][C:2]12[CH:3]([CH:4]3[CH2:5][CH2:6][CH:7]1[CH2:8]3)[C:12]([C:10]([CH3:9])=[O:11])([C:23]([CH3:24])=[O:25])[NH:13][C:14]2([C:15]#[N:16])[c:17]1[cH:18][cH:19][cH:20][cH:21][cH:22]1,water,298.15,26.49051058491136,-14.087423982350538
3469,3950,[CH3:9][O:10][C:11](=[O:12])[C-:13]([C:14]#[N:15])[N+:16]#[C:17][C:18]#[N:19].[O-:1][C:2](=[O:3])/[CH:4]=[CH:5]\[C:6](=[O:7])[O-:8]>>[O-:1][C:2](=[O:3])[C@H:4]1[C@@H:5]([C:6](=[O:7])[O-:8])[C:13]([C:11]([O:10][CH3:9])=[O:12])([C:14]#[N:15])[N:16]=[C:17]1[C:18]#[N:19],water,298.15,12.546407712051876,-47.42656331641421
